* C:\sandbox\PyLTSpice_GitHub_nunobrum\tests\SalenKey.asc
V1 VCC 0 3.3
V2 0 VEE 0
R11 N002 N001 100k 
R1 N002 N001 100k
R2 N001 VI 100k
R3 salen VO 47k
V3 freq 0 PWL(0 1k 2m 1k 30m 10k)
C1 N002 0 22n
C3 VO N001 100n
C4 salen 0 10n
V4 VI 0 1.5 AC 1 0
XU1 N002 VO VCC VEE VO OPA2333P_MC


************************************
* Operational Amplifier Subcircuit *
************************************

.subckt OPA2333P_MC IN+ IN- VCC VEE OUT
+params:
+ inputIbias = normal_zero(200p)
+ inputVoff  = normal_zero(10u)
+ inputIdiff = normal_zero(400p)
.PARAM runIO = inputIbias
.PARAM runID = (inputIdiff/2)
V1 IN-    N001  {inputVoff}
I1 N001   VEE   {runIO-runID}
I2 IN+    VEE   {runIO+runID}
XDUT IN+ N001 VCC VEE OUT OPA2333P
.lib OPA2333P.LIB
.ends OPA2333P_MC
.ac dec 1000 0.1 100k

.param run=-1
* .step param run -1 1000 1
.param test_exiting_param_set1 = 23
.param test_exiting_param_set2 =34mV
.param test_exiting_param_set3= 34E-09
.param test_exiting_param_set4 34E-09

.backanno
.end
